US05175157
2-[3-(N-(3-(3,4-Methylenedioxy-phenoxy)-propyl)-piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[3-(piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-(3,4-methylenedioxy-phenoxy)-propane analogously to Example 1.

reactant | 2-[3-(piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CCCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C19H28N2O3
reactant | 1-chloro-3-(3,4-methylenedioxy-phenoxy)-propane | ClCCCOC1=CC2=C(C=C1)OCO2 | C10H11ClO3
product | 2-[3-(N-(3-(3,4-Methylenedioxy-phenoxy)-propyl)-piperidin-3-yl)-propyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.C1OC=2C=C(OCCCN3CC(CCC3)CCCN3C(C4=CC(=C(C=C4CC3)OC)OC)=O)C=CC2O1 | InChI=1S/C29H38N2O6.ClH/c1-33-26-16-22-10-14-31(29(32)24(22)18-27(26)34-2)13-4-7-21-6-3-11-30(19-21)12-5-15-35-23-8-9-25-28(17-23)37-20-36-25;/h8-9,16-18,21H,3-7,10-15,19-20H2,1-2H3;1H
